US06680316B1
Preparation of 5,6-bis(4-Methoxyphenyl)-2-isobutyl-4-phenylcarbamoyl-2H-pyridazin-3-one
Using 5,6-bis(4-methoxyphenyl)-4-carboxy-2-isobutyl-2H-pyridazin-3-one and aniline as starting materials, the procedures of Example 22 were repeated likewise, whereby the title compound was obtained in a yield of 89.0%.

reactant | 5,6-bis(4-methoxyphenyl)-4-carboxy-2-isobutyl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC(C)C)=O)C(=O)O | C23H24N2O5
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 5,6-bis(4-Methoxyphenyl)-2-isobutyl-4-phenylcarbamoyl-2H-pyridazin-3-one | yield of 89.0% | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC(C)C)=O)C(NC1=CC=CC=C1)=O | C29H29N3O4
